US04402708
Reaction of phthalic anhydride and arachidyl amine to form N,N-diarachidyl phthalamic acid.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | arachidyl amine | C(CCCCCCCCCCCCCCCCCCC)N | C20H43N
product | N,N-diarachidyl phthalamic acid | C(CCCCCCCCCCCCCCCCCCC)N(C(C=1C(C(=O)O)=CC=CC1)=O)CCCCCCCCCCCCCCCCCCCC | C48H87NO3
